US09145407B2
tert-Butyl 3-{5-[5-trifluoromethyl-2-(2-chloro-4-{[(2,4-dimethoxybenzyl)(1,3,4-thiadiazol-5-yl)amino]sulfonyl}-5-fluorophenoxy)phenyl]-1H-pyrazol-1-yl}azetidine-1-carboxylate
tert-Butyl 3-[5-(5-trifluoromethyl-2-hydroxyphenyl)-1H-pyrazol-1-yl]azetidine-1-carboxylate (Preparation 34, 400 mg, 1.04 mmol) and potassium carbonate (450 mg, 3.26 mmol) were combined in dimethylsulfoxide (5 mL). To this slurry was added 5-chloro-N-(2,4-dimethoxybenzyl)-2,4-difluoro-N-1,3,4-thiadiazol-2-ylbenzenesulfonamide (Preparation 6, 482 mg, 1.04 mmol) and stirred at ambient temperature for 3 hours. tert-Butylmethyl ether (30 mL) and water (30 mL) were added and the layers separated. The organic layer was washed with water (2×30 mL), then dried over anhydrous magnesium sulphate, filtered and concentrated in vacuo to give a foam. The foam was purified by silica gel flash column chromatography (20% to 40% ethyl acetate in heptane gradient elution) to afford the title compound as a colourless foam (600 mg, 70%).

reactant | tert-Butyl 3-[5-(5-trifluoromethyl-2-hydroxyphenyl)-1H-pyrazol-1-yl]azetidine-1-carboxylate | 1.04 mmol, 400 mg | FC(C=1C=CC(=C(C1)C1=CC=NN1C1CN(C1)C(=O)OC(C)(C)C)O)(F)F | C18H20F3N3O3
reactant | potassium carbonate | 3.26 mmol, 450 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 5-chloro-N-(2,4-dimethoxybenzyl)-2,4-difluoro-N-1,3,4-thiadiazol-2-ylbenzenesulfonamide | 1.04 mmol, 482 mg | ClC=1C(=CC(=C(C1)S(=O)(=O)N(C=1SC=NN1)CC1=C(C=C(C=C1)OC)OC)F)F | C17H14ClF2N3O4S2
reactant | tert-Butylmethyl ether | 30 mL | C(C)(C)(C)OC | C5H12O
solvent | dimethylsulfoxide | 5 mL | CS(=O)C | C2H6OS
solvent | water | 30 mL | O | H2O
product | tert-Butyl 3-{5-[5-trifluoromethyl-2-(2-chloro-4-{[(2,4-dimethoxybenzyl)(1,3,4-thiadiazol-5-yl)amino]sulfonyl}-5-fluorophenoxy)phenyl]-1H-pyrazol-1-yl}azetidine-1-carboxylate | 600 mg, 70% | FC(C=1C=CC(=C(C1)C1=CC=NN1C1CN(C1)C(=O)OC(C)(C)C)OC1=C(C=C(C(=C1)F)S(=O)(=O)N(C1=NN=CS1)CC1=C(C=C(C=C1)OC)OC)Cl)(F)F | C35H33ClF4N6O7S2
